US05932571
Combine 1-t-butoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane (0.8 g, 2.5 mmol) in dimethylformamide (10 mL). Add sodium hydride (0.13 g, 60% in oil, 3.25 mmol) portionwise. After about 30 minutes, when the gas evolution ceases, add pentyl bromide (0.34 mL, 2.74 mmol). Heat to 80° C. After 18 hours, cool the reaction mixture and dilute with dichloromethane (150 mL) and extract with brine. Dry the organic layer over MgSO4, filter, and evaporate in vacuo to give 1-t-butoxycarbonyl-4-(1-pentyl-1H-benzimidazol-2-yl)[1,4]diazepane: Rf =0.87 (silica gel, 5% methanol/dichloromethane/0.05% concentrated aqueous ammonia). Combine 1-t-butoxycarbonyl-4-(1-pentyl-1H-benzimidazol-2-yl)[1,4]diazepane (0.7 g, 1.8 mmol) and ethanol (5 mL). Add aqueous hydriodic acid (5 mL, 57%). Heat to reflux. After 1 hour, cool to ambient temperature and dilute with diethyl ether (250 mL) and stir to give a solid. Collect the solid by filtration, rinse with diethyl ether, and dry to give the title compound.

reactant | 1-t-butoxycarbonyl-4-(1H-benzimidazol-2-yl)[1,4]diazepane | 2.5 mmol, 0.8 g | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1)C=CC=C2 | C17H24N4O2
reactant | sodium hydride | 3.25 mmol, 0.13 g | [H-].[Na+]
reactant | pentyl bromide | 2.74 mmol, 0.34 mL | C(CCCC)Br | C5H11Br
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
product | 1-t-butoxycarbonyl-4-(1-pentyl-1H-benzimidazol-2-yl)[1,4]diazepane | C(C)(C)(C)OC(=O)N1CCN(CCC1)C1=NC2=C(N1CCCCC)C=CC=C2 | C22H34N4O2
